US06169091A
4-(4-Benzyloxy-3-chloroanilino)-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine hydrochloride
Prepared according to Procedure A from 4-chloro-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine and 4-benzyloxy-3-chloroaniline (prepared according to the published method: WO96/09294); tlc (dichloromethane:ethanol:aq. ammonia, 100:8:1) Rf 0.48; m/z (M+1)+406.

reactant | 4-chloro-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
reactant | 4-benzyloxy-3-chloroaniline | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)Cl | C13H12ClNO
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Benzyloxy-3-chloroanilino)-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C(NC=2C3=C(N=CN2)C=NC(=C3)N(C)C)C=C1)Cl | InChI=1S/C22H20ClN5O.ClH/c1-28(2)21-11-17-19(12-24-21)25-14-26-22(17)27-16-8-9-20(18(23)10-16)29-13-15-6-4-3-5-7-15;/h3-12,14H,13H2,1-2H3,(H,25,26,27);1H
